US04243819
A mixture of 5 g of p-trifluoromethylaniline, 2.25 g of α-bromoisovaleric acid and 2.0 g of potassium carbonate is heated at 100° for 1 hour. After 1.5 hour, 5 ml of HMPT is added and the mixture heated at 100° for 15 hr. The mixture is then poured into water and potassium carbonate added to about pH 11. The mixture is washed with ether, methylene chloride and the aqueous phase acidified to about pH 3 and washed with ether and concentrated. The residue is recrystallized from hexane/ether to yield N-(4-trifluoromethylphenyl)valine, which is reacted with m-phenoxybenzyl bromide to yield the m-phenoxybenzyl ester of N-(4-trifluoromethylphenyl)valine. MS m/e 443 (M+, 5.9).

reactant | p-trifluoromethylaniline | 5 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | α-bromoisovaleric acid | 2.25 g | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | HMPT | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | water | O | H2O
product | N-(4-trifluoromethylphenyl)valine | FC(C1=CC=C(C=C1)N[C@@H](C(C)C)C(=O)O)(F)F | C12H14F3NO2
